US09107411B2
B) 2-chloro-N-cyclopropyl-4-(ethylamino)-5-nitrobenzamide
2.17 g (8.40 mmol) of 2-chloro-N-cyclopropyl-4-fluoro-5-nitrobenzamide were initially charged in 100 ml of THF, 12 ml of a 2 molar solution of ethylamine in THF (16.79 mmol) were added and the mixture was stirred in a closed ampoule at room temperature for 18 hours. The reaction mixture was poured onto water, the organic solvents were distilled off and the residue obtained was filtered off with suction. Yield: 2.10 g (81% of theory)

reactant | 2-chloro-N-cyclopropyl-4-fluoro-5-nitrobenzamide | 8.40 mmol, 2.17 g | ClC1=C(C(=O)NC2CC2)C=C(C(=C1)F)[N+](=O)[O-] | C10H8ClFN2O3
reactant | ethylamine | C(C)N | C2H7N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 16.79 mmol | C1CCOC1 | C4H8O
product | 2-chloro-N-cyclopropyl-4-(ethylamino)-5-nitrobenzamide | ClC1=C(C(=O)NC2CC2)C=C(C(=C1)NCC)[N+](=O)[O-] | C12H14ClN3O3
